US09334244B2
Step 1: tert-butyl 4-(5-(6-(4-(isopropylsulfonyl)phenyl)pyrazin-2-yl)isoxazol-3-yl)benzyl(methyl)carbamate
NCS (34.97 mg, 0.2619 mmol) was added to a solution of tert-butyl 4-((hydroxyimino)methyl)benzyl(methyl)carbamate (62.93 mg, 0.2381 mmol) in DMF (1 mL) and the mixture heated at 65° C. for 15 minutes. The reaction mixture was cooled to ambient temperature and 2-ethynyl-6-(4-isopropylsulfonylphenyl)pyrazine (75 mg, 0.2619 mmol) and DMF (2 mL) were added followed by the dropwise addition of Et3N (28.91 mg, 39.82 μL, 0.2857 mmol). The mixture was stirred at ambient temperature for 45 minutes then heated to 65° C. for 1 hour. The mixture was cooled to ambient temperature and diluted with EtOAc and water and the layers separated. The aqueous layer was extracted with EtOAc (×2) and the combined organic extracts washed with water (×3), brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography (ISCO Companion™, 12 g column, eluting with 0 to 40% EtOAc/Petroleum Ether) to give the sub-title product as a yellow solid. 1H NMR (400.0 MHz, DMSO) d H NMR (400.0 MHz, DMSO) d 9.53 (s, 1H), 9.32 (s, 1H), 8.58 (d, 2H), 8.09 (s, 1H), 8.06 (d, 2H), 8.01 (d, 2H), 7.42 (d, 2H), 4.47 (s, 2H), 3.55 (sept, 1H), 2.82 (s, 3H), 1.46-1.41 (2×s, 9H) and 1.21 (d, 6H) ppm; MS (ES+) 493.2

reactant | NCS | 0.2619 mmol, 34.97 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | tert-butyl 4-((hydroxyimino)methyl)benzyl(methyl)carbamate | 0.2381 mmol, 62.93 mg | ON=CC1=CC=C(CN(C(OC(C)(C)C)=O)C)C=C1 | C14H20N2O3
reactant | 2-ethynyl-6-(4-isopropylsulfonylphenyl)pyrazine | 0.2619 mmol, 75 mg | C(#C)C1=NC(=CN=C1)C1=CC=C(C=C1)S(=O)(=O)C(C)C | C15H14N2O2S
reactant | Et3N | 0.2857 mmol, 39.82 μL, 28.91 mg | CCN(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(5-(6-(4-(isopropylsulfonyl)phenyl)pyrazin-2-yl)isoxazol-3-yl)benzyl(methyl)carbamate | C(C)(C)S(=O)(=O)C1=CC=C(C=C1)C1=CN=CC(=N1)C1=CC(=NO1)C1=CC=C(CN(C(OC(C)(C)C)=O)C)C=C1 | C29H32N4O5S
